US04026944
60 g (0.275 mol) of 1,5-dinitro naphthalene were suspended, in a 700 ml stirrer autoclave, in 340 ml of aniline and treated with 18 g of water-moist, 1%-strength catalyst of platinum and activated charcoal corresponding to 8 g of dry catalyst. Hydrogenation was carried out at 50° C. and a hydrogen pressure of 10 bars, as was described in Example 1. The hydrogen uptake was finished after 2 hours. The catalyst was separated off by filtration at 80° C. and the aniline subsequently removed by water-vapour distillation. The distillation residue was cooled to 18° C. and the precipitated crystallate filtered off and dried. In this way 40 g (92% of the theory) of 1,5-diamino naphthalene of m.p. 188°-189° C. were obtained.

reactant | 1,5-dinitro naphthalene | 0.275 mol, 60 g | [N+](=O)([O-])C1=CC=CC2=C(C=CC=C12)[N+](=O)[O-] | C10H6N2O4
reactant | water | 18 g | O | H2O
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
solvent | aniline | 340 ml | NC1=CC=CC=C1 | C6H7N
catalyst | platinum | [Pt] | Pt
product | 1,5-diamino naphthalene | NC1=CC=CC2=C(C=CC=C12)N | C10H10N2
